US06313122B1
Preparation of 2-[(2-Butoxy-4-methoxybenzoyl)amino]-N-(4-methoxyphenyl)benzamide
Using the procedure described in Example 102, Part A, 2-butoxy-4-methoxybenzoic acid (0.54 mmol)and 2-amino-N-(4-methoxyphenyl)benzamide (0.54 mmol) yielded 61 mg (25%) of the title compound.

reactant | 2-butoxy-4-methoxybenzoic acid | 0.54 mmol | C(CCC)OC1=C(C(=O)O)C=CC(=C1)OC | C12H16O4
reactant | 2-amino-N-(4-methoxyphenyl)benzamide | 0.54 mmol | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1 | C14H14N2O2
product | 2-[(2-Butoxy-4-methoxybenzoyl)amino]-N-(4-methoxyphenyl)benzamide | 61 mg, 25% | C(CCC)OC1=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC=C2)C=CC(=C1)OC | C26H28N2O5
